US04386220
Bicyclo[10.3.0]pentadeca-1,12-diene (intermediate compound isolated)
2-(3-Phenylsulfonyl-prop-1-yl)-cyclododecanone used hereinabove (Examples 1 and 2) as starting material was prepared as follows: 222 g (1 mole) of 2-allyl-cyclododecanone-Helv. 54, 2889 (1971)--in admixture with 132 g (1.2 mole) of thiophenol and 3.0 g of α,α'-azoisobutyronitrile were heated at 100° for 10 hours, an additional amount of 6.0 g of α,α'-azoisobutyronitrile being added over this period, portionwise, to the reaction mixture. After dilution with an excess amount of trichloroethane and cooling in an ice-bath, 376 ml (2.6 mole) of 40% peracetic acid were progressively added to the reaction mixture, under good stirring (reaction temperature: 25°-30°). After treatment with an excess amount of an aqueous solution of NaHSO3 (elimination of peroxides), a 10% solution of NaOH in water was added thereto until pH 8-9 (temperature ca. 10°). After extraction with methylene chloride (2×300 ml), successive washings with water and brine, drying over Na2SO4, evaporation and crystallization of the crude residue in a CH2Cl2 /diethyl ether/petrol ether mixture, there were finally isolated 332 g (91% yield) of the desired compound, m.p. 97°-102°.

reactant | 2-(3-Phenylsulfonyl-prop-1-yl)-cyclododecanone | C1(=CC=CC=C1)S(=O)(=O)CCCC1C(CCCCCCCCCC1)=O | C21H32O3S
reactant | thiophenol | 1.2 mole, 132 g | C1(=CC=CC=C1)S | C6H6S
reactant | trichloroethane | C(C(Cl)Cl)Cl | C2H3Cl3
reactant | peracetic acid | 2.6 mole, 376 ml | C(C)(=O)OO | C2H4O3
reactant | NaHSO3 | OS(=O)[O-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | Bicyclo[10.3.0]pentadeca-1,12-diene | 332 g, 91% yield | C12=CCCCCCCCCCC2=CCC1 | C15H24
